US06576631B1
N′-(4,6-Dimethoxy-[1,3,5]triazin-2-yl)-4-methylbenzene-1,2-diamine (Compound Number 3-56)
N-(4,6-dimethoxy-[1,3,5]triazin-2-yl)-4-methyl-2-nitroaniline (10 g) was dissolved in ethyl acetate (50 ml) and water (50 ml), and 10 g of iron power and acetic acid (2 ml) were added thereto, followed by reflux for 2 hours. Insoluble matters were removed by filtration, and the ethyl acetate layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. The solvent was distilled off to obtain 8.8 g of the desired product as a white powder (m.p. 180-183° C.)

reactant | N-(4,6-dimethoxy-[1,3,5]triazin-2-yl)-4-methyl-2-nitroaniline | 10 g | COC1=NC(=NC(=N1)OC)NC1=C(C=C(C=C1)C)[N+](=O)[O-] | C12H13N5O4
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
catalyst | iron | 10 g | [Fe] | Fe
product | N′-(4,6-Dimethoxy-[1,3,5]triazin-2-yl)-4-methylbenzene-1,2-diamine | 8.8 g | COC1=NC(=NC(=N1)OC)NC=1C(=CC=C(C1)C)N | C12H15N5O2
